US08975400B2
3-(4-formyl-2-(trifluoromethyl)phenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 4-fluoro-3-(trifluoromethyl)benzaldehyde and 3-hydroxybenzonitrile. LC-MS (ESI): m/z 290 [M−H]−; 1.69 min (ret time).

reactant | 4-fluoro-3-(trifluoromethyl)benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | 3-(4-formyl-2-(trifluoromethyl)phenoxy)benzonitrile | C(=O)C1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)C(F)(F)F | C15H8F3NO2
